US06787543B2
(2S)-Piperidine-2-carboxylic acid methyl ester hydrochloride (625 mg) was dissolved in dichloromethane. Then N,N-diisopropylethylamine (0.91 ml) and benzaldehyde (0.53 ml) were added to the solution at 0° C. After the whole was stirred for 30 minutes at the same temperature, sodium triacetoxyborohydride (1.48 g) was added. The reaction mixture was allowed to room temperature and stirred for 3 hours. The mixture was poured into aqueous saturated sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated under reduced pressure to give (2S)-1-benzylpiperidine-2-carboxylic acid methyl ester (795 mg).

reactant | (2S)-Piperidine-2-carboxylic acid methyl ester hydrochloride | 625 mg | Cl.COC(=O)[C@H]1NCCCC1
reactant | N,N-diisopropylethylamine | 0.91 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzaldehyde | 0.53 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 1.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S)-1-benzylpiperidine-2-carboxylic acid methyl ester | 795 mg | COC(=O)[C@H]1N(CCCC1)CC1=CC=CC=C1 | C14H19NO2
